US08106043B2
2-(2-Chloroethylthio)-4-nitroaniline:
To a stirred suspension of 2-amino-5-nitrobenzenethiol (4.11 g, 24.15 mmol) in ethanol (50 mL) and water (10 mL) was added sodium hydroxide (0.966 g, 24.15 mmol). To the resulting solution was added 1-bromo-2-chloroethane (8.04 mL, 97 mmol), and the resulting mixture was stirred at room temperature for 3 hours. The mixture was then diluted with ethyl acetate and washed with saturated sodium carbonate (3×). The organic phase was dried, filtered, and concentrated, giving a dark yellow solid (5.13 g, 91%). 1H NMR (DMSO-d6) δ 8.16 (d, J=2.7 Hz, 1H), 7.97 (dd, J=9.0, 2.7 Hz, 1H), 6.94 (brs, 2H), 6.79 (d, J=9.0 Hz, 1H), 3.68 (t, J=7.2 Hz, 2H), 3.11 (t, J=7.2 Hz, 2H); ESI-MS (m/z, %): 233 (MH+, 100), 216 (79).

reactant | 2-amino-5-nitrobenzenethiol | 24.15 mmol, 4.11 g | NC1=C(C=C(C=C1)[N+](=O)[O-])S | C6H6N2O2S
reactant | sodium hydroxide | 24.15 mmol, 0.966 g | [OH-].[Na+]
reactant | 1-bromo-2-chloroethane | 97 mmol, 8.04 mL | BrCCCl | C2H4BrCl
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Chloroethylthio)-4-nitroaniline | 5.13 g, 91% | ClCCSC1=C(N)C=CC(=C1)[N+](=O)[O-] | C8H9ClN2O2S
